US05444072
A solution of methyl (E)-6-(1,3-dihydro-6-ethyl-4-hydroxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate (8.61 g) and imidazole (3.5 g) in dimethyl formamide (40 ml) was treated with t-butyldimethylsilyl chloride (4.50 g) and stirred at 25° C. for 14 hours. The reaction mixture was then poured into ice water and extracted with ether. Drying over magnesium sulfate and evaporation gave methyl (E)-6-(4-t-butyldimethylsilyloxy-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate.

reactant | methyl (E)-6-(1,3-dihydro-6-ethyl-4-hydroxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 8.61 g | C(C)C1=C(C(=C2C(OCC2=C1C)=O)O)C/C=C(/CCC(=O)OC)\C | C19H24O5
reactant | imidazole | 3.5 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 4.50 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
product | methyl (E)-6-(4-t-butyldimethylsilyloxy-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)CC)C)=O | C25H38O5Si
